US06689779B2
In 20 ml of dimethylformamide, 1 g of 2,5-dibromopyridin was reacted with 0.58 g of 1,2,4-triazole sodium at 80° C. for 10 hours with stirring. Following the addition of ethyl acetate, the organic layer thus separated was washed with brine, dehydrated, filtered, and concentrated in vacuo to give 880 mg of 2-(1,2,4-triazol-1-yl)-5-bromopyridine. This compound was dissolved, along with 1.4 g of (S)-[N-3-(4-trimethylstannyl-3-fluorophenyl)-2-oxo-5-oxazolidinyl]methyl acetamide, in 50 ml of dimethylformamide and then added with 1.2 ml of triethyl amine and 1.1 g of dichlorobistriphenylphosphine palladium (II) at room temperature. Reaction was conducted at 100° C. for 3 hours. Water was then added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer thus separated was washed with brine, dehydrated, filtered, and concentrated in vacuo. Purification of the concentrate with column chromatography provided the title compound. 320 mg. Yield 23%.

reactant | 2,5-dibromopyridin | 1 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 1,2,4-triazole sodium | 0.58 g | [Na].N1N=CN=C1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(1,2,4-triazol-1-yl)-5-bromopyridine | 880 mg | N1(N=CN=C1)C1=NC=C(C=C1)Br | C7H5BrN4
